US08048909B2
Methyl 2-[(4-formyl-2-phenyl-1H-pyrrol-1-yl)sulfonyl]benzoate
Using 5-phenyl-1H-pyrrole-3-carbaldehyde (513 mg), sodium hydride (60% in oil, 216 mg), 15-crown-5 (990 mg) and methyl 2-(chlorosulfonyl)benzoate (1.06 g), a procedure as in Reference Example 219 was performed to give the title compound as a pale-yellow oil (yield 664 mg, 60%).

reactant | 5-phenyl-1H-pyrrole-3-carbaldehyde | 513 mg | C1(=CC=CC=C1)C1=CC(=CN1)C=O | C11H9NO
reactant | sodium hydride | 216 mg | [H-].[Na+]
reactant | 15-crown-5 | 990 mg | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | methyl 2-(chlorosulfonyl)benzoate | 1.06 g | ClS(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C8H7ClO4S
product | Methyl 2-[(4-formyl-2-phenyl-1H-pyrrol-1-yl)sulfonyl]benzoate | yield 664 mg, 60% | C(=O)C=1C=C(N(C1)S(=O)(=O)C1=C(C(=O)OC)C=CC=C1)C1=CC=CC=C1 | C19H15NO5S
